US04748274
The epoxides used as the starting materials in the general process described above can be obtained from available starting materials using an appropriate series of reactions. Thus, methyl 4-hydroxybenzoate is hydrogenated using 5% rhodium on alumina as catalyst to give methyl 4-hydroxycyclohexanecarboxylate. This is then oxidized with pyridinium chlorochromate resulting in methyl 4-oxocyclohexanecarboxylate. The 2-carbon homologation of methyl 4-oxocyclohexanecarboxylate to give methyl 4-(oxoethylidene)cyclohexanecarboxylate is carried out using the method developed by A. I. Meyers. Acetaldehyde t-butylimine is metalated with lithium diisopropylamide and then treated with diethyl chlorophosphate to provide the lithioeneaminephosphonate. Addition of methyl 4-oxocyclohexanecarboxylate and subsequent acid hydrolysis gives methyl 4-(oxoethylidene)cyclohexanecarboxylate. The reduction of this oxoethylidene compound with sodium borohydride gives methyl 4-(2-hydroxyethylidene)cyclohexanecarboxylate.

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
catalyst | rhodium on alumina | [Rh] | Rh
product | methyl 4-hydroxycyclohexanecarboxylate | OC1CCC(CC1)C(=O)OC | C8H14O3
